US07772234B2
Step C: Preparation of 5-acetyl-2-(4-bromo-2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester.
A mixture of 5-acetyl-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (251 mg, 0.739 mmol), NBS (139 mg, 0.781 mmol), and catalytic amount of HBr (48%) in DMF (3 mL) was stirred for 19 hours at room temperature. The reaction mixture was diluted with EtOAc, and washed with water (5×). The organic layer was dried over MgSO4, filtered, and concentrated to give the desired product (269 mg, 87%) that was used directly without further purification.

reactant | 5-acetyl-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 0.739 mmol, 251 mg | COC(C1=C(C(=C(C(=C1)C(C)=O)F)F)NC1=C(C=CC=C1)Cl)=O | C16H12ClF2NO3
reactant | NBS | 0.781 mmol, 139 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | HBr | Br | BrH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-acetyl-2-(4-bromo-2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 269 mg, 87% | COC(C1=C(C(=C(C(=C1)C(C)=O)F)F)NC1=C(C=C(C=C1)Br)Cl)=O | C16H11BrClF2NO3
